US04089960
A sodium methoxide solution prepared from 3.46 g (0.15 mole) of sodium and 150 ml of absolute methanol is added dropwise at 40° C in the course of 1 hour to a solution of 312 g (0.15 mole) of methyl 2,6-dichloronicotinate in 100 ml of methanol. The reaction mixture is refluxed for 3 hours and the solvent is then evaporated in vacuo. The dry residue is triturated with methylene chloride, the undissolved constituents are filtered off and the filtrate is evaporated in vacuo to dryness. The crystallised residue is recrystallised from petroleum ether to yield pure methyl 2-methoxy-6-chloronicotinate with a melting point of 68°-69° C.

reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium | 0.15 mole, 3.46 g | [Na] | Na
reactant | methyl 2,6-dichloronicotinate | 0.15 mole, 312 g | ClC1=C(C(=O)OC)C=CC(=N1)Cl | C7H5Cl2NO2
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 150 ml | CO | CH4O
product | methyl 2-methoxy-6-chloronicotinate | COC1=C(C(=O)OC)C=CC(=N1)Cl | C8H8ClNO3
